US08003654B2
4) Synthesis of ethyl-(2-methyl-oxazol-4-ylmethyl)-amine
prepared by reaction of 4-bromomethyl-2-methyl-oxazole (prepared according to Pattenden G. et al, Org. & Biomolecular Chem., 2003, 1, 23, 4173-4208) with 2M ethylamine in THF.

reactant | 4-bromomethyl-2-methyl-oxazole | BrCC=1N=C(OC1)C | C5H6BrNO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(2-methyl-oxazol-4-ylmethyl)-amine | C(C)NCC=1N=C(OC1)C | C7H12N2O
